US09388185B2
(4-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)pyridin-2-yl)(3-hydroxyazetidin-1-yl)methanone
The compound was prepared by using procedure analogous to those described for the synthesis of Example 73, Step 3 starting from 4-{2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazin-6-yl}pyridine-2-carboxylic acid and 3-hydroxyazetidine hydrochloride (from Oakwood). LCMS calculated for C25H26N5O4 (M+H)+: m/z=460.2. Found 460.2.

reactant | 4-{2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazin-6-yl}pyridine-2-carboxylic acid | COC=1C=C(C=C(C1)OC)CCC=1N=C2C(=NC1)NC(=C2)C2=CC(=NC=C2)C(=O)O | C22H20N4O4
reactant | 3-hydroxyazetidine hydrochloride | Cl.OC1CNC1
product | (4-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)pyridin-2-yl)(3-hydroxyazetidin-1-yl)methanone | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C3=CC(=NC=C3)C(=O)N3CC(C3)O)C=C(C1)OC | C25H25N5O4
